data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,3024,"CN(C)P(=O)(N(C)C)N(C)C.COC1=CC=C(COCCCC#CC(O)[N:1](C)C)C=C1.O=P([O-])(O)[O:2][H:3].O=P([O-])([O-])O.[Li+]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6926,"COC([O-])(C1(C2=CC=CC=C2)OC1C(=O)C1=CC=CC=C1)[OH+:1][K:2]|((2, 1), 1)"
train,pmechdb_split_0,0,2560,"CC(OC(C)(O)Cl)=[O+:1][H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4200,"C1=CC=C([CH2:1][Br:2])C=C1.C1CC[NH:3]CC1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4084,"CC(Br)(Br)[C:1](C(Br)(Br)Br)=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5016,"CC(C)[C:1](CC1=CC=CC=C1)=[O:2].CC(C)[C:3](=[CH:4]C1=CC=CC=C1)[O-:5]|(5, 3);((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,5164,"CC(C)C(N)C(=O)[O:1][H:2].CC1=C2CCC(=O)C2(C)CCC1(O)[NH:3]C(C(=O)O)C(C)C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9117,"C[CH:1]([Li:2])[CH:3]=[CH2:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6971,"COC(=O)[C:1]1=[C:2]([OH:3])C(Br)CCC1.C[C:4](=[OH+:5])[CH:6]=[CH2:7].O=S(=O)([O-])O|(3, 2);((2, 1), 7);((7, 6), 4);((4, 5), 5)"
train,pmechdb_split_0,0,5401,"CC[OH+:1][C:2]1([OH:3])CCCC(C2=CC=CC=C2)O1.O=C([O-])C(F)(F)F|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3190,"C1C[NH:1]CCO1.N#CC1=CC=C([CH2:2][Cl:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5659,"CC(=O)O[C:1](C)=[O:2].CC(CC[OH:3])OS(=O)(=O)C(F)(F)F|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9991,"C[CH+:1]C.O=S(=O)(O)C1=C[CH:2]=[CH:3]O1|((2, 3), 1)"
train,pmechdb_split_0,0,4881,"CC(=O)[O-].CC1(C)C[CH+:1]C2(C)C1[CH:2]=[CH:3]2.CC1=CC=C(S(=O)(=O)[O-])C=C1|((2, 3), 1)"
train,pmechdb_split_0,0,548,"Br[P:1](Br)[Br:2].CCC(C)[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3465,"C[Si](C)(C)C[CH2:1][O:2]S(C)(=O)=O|((1, 2), 2)"
train,pmechdb_split_0,0,8505,"CC(C)CC[O-:1].[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3929,"C1CO[C:1]([O-:2])([Cl:3])OC1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2964,"CO.COC1=C([OH:1])C2=C(C=C1)CC1C3CC=C(O)[CH+:2]C23CCN1CC1CCC1.CS(=O)(=O)O.CS(=O)(=O)[O-]|(1, 2)"
train,pmechdb_split_0,0,905,"CC(C)[CH+:1]C1=CC=CC=C1.[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,4910,"O=C1CCC(=O)N1[O:1][C:2](C#CCO)(OCC1C2=C(C=CC=C2)C2=C1C=CC=C2)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3074,"C=CC=[O:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4619,"C1=CC=CC=C1.CC(=O)CCC(C)([NH2+]CCOCCO)[O-:1].CC(=O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8114,"CC(C)[O][Al-]([O]C(C)C)([O:1][C:2](C)(C)[H:3])[O+:4]=[CH:5]C|(1, 2);((2, 3), 5);((5, 4), 4)"
train,pmechdb_split_0,0,3107,"C=C[C+:1]1C=CC=C[C:2]1(C(C)C1=CC=CC=C1)[H:3].[F-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,53,"O[C:1](C1CCCCC1)([NH3+:2])[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6542,"C[P+:1](C)(C)[Mg:2][I]|((2, 1), 1)"
train,pmechdb_split_0,0,8512,"CO[C:1](=[C:2](C)C(C)=O)[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6929,"CO[PH+:1](OC)N(C)C.C[OH:2]|(2, 1)"
train,pmechdb_split_0,0,4994,"C1=CC=NC=C1.C=C(C)C1CC2C3C2(C)C(C)(C1)C(C)[CH:1]3[O:2]S(C)(=O)=O|((1, 2), 2)"
train,pmechdb_split_0,0,4203,"CCC1=CC(C)=C([S:1]C[CH:2](C)[O:3]S(=O)(=O)C2=CC=C(C)C=C2)C(C)=C1.CO.N|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6907,"COC1=CC(OC)=C(OC)C(OC(=O)CCC(C)C(C)OC)=C1[C:1]([CH:2](C)[H:3])=[O:4].C[O:5][Na]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,5281,"CC(=CC(C)=[O:1])NC1=C2N=CNC2=CC=C1.CC(=O)[O-].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,892,"CC(O)(OC=O)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7616,"CCC[O+:1](C(O)(O)CC([NH3+])C1=CC=CC=C1)[H:2].CCC[OH:3].O=S(=O)([O-])O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8267,"C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CCCOC(=O)C([N-][N+:2]#[N:3])C1CCCCC1.[OH3+]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7550,"CCCCCC1CC(C)C([CH:1]=[N+:2](C)C2=CC=CC=C2)C1C(C)=C[O-:3].C[NH2+]C1=CC=CC=C1.O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5235,"CC(=C[O-:1])C1C(C2CCCCC2)CC(C)C1[CH:2]=[N+:3](C)C1=CC=CC=C1.C[NH2+]C1=CC=CC=C1.O|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,36,"C=C1CCCCC1(CC(CC)[OH:1])C[C:2](O)=[OH+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8316,"C1CCOC1.COC1=C(Br)C(C2OCCC[O:1]2)=C(OC)C=C1.O.[H:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,745,"CC(=CC[C:1](C)=[O:2])[NH:3]C1=NC(Br)=CC=C1.CC(=O)O.O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6675,"C[O+:1](C12OCCC1(C1=CC=CC=C1)C1=C(C=CC=C1)O2)[H:2].C[OH:3].[Br-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8358,"CC1CCCCC1O[B:1]1C2CCCC1CCC2.[OH-:2]|(2, 1)"
train,pmechdb_split_0,0,10014,"C1CC(C2=NN=NN2)[NH:1]C1.CCCC[C:2](C1=C(O)C=CC(Br)=C1)=[O:3].O=C(O)C(F)(F)F.O=CC1=CC=C([N+](=O)[O-])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9223,"C[N:1]1C2=CC=CC=C2[C+:2]2CCN[CH:3](CC3=CC=C(O)C(O)=C3)[CH:4]12.[Cl-]|(1, 4);((4, 3), 2)"
train,pmechdb_split_0,0,6755,"COC(=O)C1(NC(=O)C2=CC=CC=C2)CC[C:1]([O:2][Si-](C)(C)(C)F)=[CH:3]C1OC.[H:4][OH:5].[Na+]|(2, 1);((1, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,5377,"COC1=CC(C2(CCCC3=CC=CC=C3)CC[N:1](C)[CH:2]3C2[Br+:3]3)=C(OC)C=C1.[BH3-]C#N.[Na+]|(1, 2);((2, 3), 3)"
